US04973708
In a second step of the reaction, the methyl-2,4-dibromobutyrate is reacted with methylamine in an aqueous solution at a temperature of below ambient in order to form N-methyl-2,4-dibromobutyramide. Then butyramide is then recovered and purified to obtain the solid intermediate product.

reactant | methyl-2,4-dibromobutyrate | COC(C(CCBr)Br)=O | C5H8Br2O2
reactant | methylamine | CN | CH5N
product | N-methyl-2,4-dibromobutyramide | CNC(C(CCBr)Br)=O | C5H9Br2NO
